************************************************************************
* auCdl Netlist:
* 
* Library Name:  song
* Top Cell Name: 2023_12_CTLE_Schematic_Layout
* View Name:     schematic
* Netlisted on:  Mar  4 12:00:39 2025
************************************************************************

.INCLUDE /home/PDK/ss28nm/SEC_CDS/ln28lppdk/S00-V1.1.0.1_SEC2.0.6.2/oa/cmos28lp/.resources/devices.cdl
*.EQUATION
*.SCALE METER
*.MEGA
.PARAM
************************************************************************
* Library Name: song
* Cell Name:    2023_12_CTLE_Schematic_Layout
* View Name:    schematic
************************************************************************

.SUBCKT CTLE IDS VDD VSS Vinn Vinp Voutn Voutp
*.PININFO IDS:B VDD:B VSS:B Vinn:B Vinp:B Voutn:B Voutp:B
MN5 net1 IDS VSS VSS slvtnfet w=8.71u l=0.03u nf=13.0 pccrit=1 plorient=1 ngcon=1 p_la=0u ptwell=0
MN9 Voutp Vinn net6 VSS slvtnfet w=6.6u l=0.03u nf=11.0 pccrit=1 plorient=1 ngcon=1 p_la=0u ptwell=0
MN6 net6 IDS VSS VSS slvtnfet w=8.71u l=0.03u nf=13.0 pccrit=1 plorient=1 ngcon=1 p_la=0u ptwell=0
MN7 IDS IDS VSS VSS slvtnfet w=8.71u l=0.03u nf=13.0 pccrit=1 plorient=1 ngcon=1 p_la=0u ptwell=0
MN8 Voutn Vinp net1 VSS slvtnfet w=6.6u l=0.03u nf=11.0 pccrit=1 plorient=1 ngcon=1 p_la=0u ptwell=0
RR5 Voutn VDD $SUB=VSS $[opppcres] w=0.43u l=1.46u pbar=1 s=1 bp=3 ncr=2
RR4 Voutp VDD $SUB=VSS $[opppcres] w=0.43u l=1.46u pbar=1 s=1 bp=3 ncr=2
RR3 net6 net1 $SUB=VSS $[opppcres] w=1.89u l=2.75u pbar=1 s=1 bp=3 ncr=2
CC1 net6 net1 $[vncap] $SUB=VSS l=3.93u w=3.614u botlev=19 toplev=44 sizedup=1
CC0 net1 net6 $[vncap] $SUB=VSS l=3.93u w=3.614u botlev=19 toplev=44 sizedup=1
.ENDS
